US04735940
A suspension of 0.59 g of 4,5-dihydro-10-(hydroxymethyl)-8-phenyl-7H-thieno[2,3-a]quinolizine-7-one in 15 ml of dioxane was treated with 0.38 ml of phenyl chloroformate and 0.27 ml of pyridine and stirred at room temperature for 2.5 hours. Then, 3 ml of morpholine were added and the mixture was stirred further until the reaction was completed. The mixture was diluted with chloroform, washed with 1N hydrochloric acid, 10 percent potassium bicarbonate solution and saturated sodium chloride solution, dried over magnesium sulfate and concentrated. By crystallization from ethanol, there was obtained pure (4,5-dihydro-7-oxo-8-phenyl-7H-thieno[2,3-a]quinolizin-10-yl)methyl 4-morpholine carboxylate of m.p. 163°-164°.

reactant | 4,5-dihydro-10-(hydroxymethyl)-8-phenyl-7H-thieno[2,3-a]quinolizine-7-one | 0.59 g | OCC=1C=C(C(N2CCC3=C(C12)SC=C3)=O)C3=CC=CC=C3 | C18H15NO2S
reactant | phenyl chloroformate | 0.38 ml | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | pyridine | 0.27 ml | N1=CC=CC=C1 | C5H5N
reactant | morpholine | 3 ml | N1CCOCC1 | C4H9NO
solvent | dioxane | 15 ml | O1CCOCC1 | C4H8O2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | (4,5-dihydro-7-oxo-8-phenyl-7H-thieno[2,3-a]quinolizin-10-yl)methyl 4-morpholine carboxylate | N1(CCOCC1)C(=O)OCC=1C=C(C(N2CCC3=C(C12)SC=C3)=O)C3=CC=CC=C3 | C23H22N2O4S
